US07297795B2
To a suspension of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide (715 mg, 2.74 mmol) in 50 mL of iso-propanol was added 3-bromo-4-ethoxyaniline (586 mg, 2.71 mmol). This mixture was heated to reflux and triethylorthoformate (2.7 mL, 16.2 mmol) was added dropwise. The reaction mixture was heated at reflux overnight. The mixture was filtered while still warm and the collected white solid was washed with iso-propanol to give 666 mg of 3-bromo-4-ethoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide, mp >250° C.; MS (ES) m/z 482.0, 484.0, 486.0 (M−H)−

reactant | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide | 2.74 mmol, 715 mg | C(#N)CC(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl | C10H8Cl2N2O2
reactant | 3-bromo-4-ethoxyaniline | 2.71 mmol, 586 mg | BrC=1C=C(N)C=CC1OCC | C8H10BrNO
reactant | triethylorthoformate | 16.2 mmol, 2.7 mL | C(C)OC(OCC)OCC | C7H16O3
solvent | iso-propanol | 50 mL | C(C)(C)O | C3H8O
product | 3-bromo-4-ethoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide | 666 mg | BrC=1C=C(NC=C(C(=O)NC2=C(C=C(C(=C2)OC)Cl)Cl)C#N)C=CC1OCC | C19H16BrCl2N3O3
